US05354839
To a reducing apparatus equipped with a thermometer, reflux condenser and stirrer, 36.5 g (0.0747 mol) of 1,4-bis(3-nitro-5-trifluoromethylphenoxy)benzene, 250 ml of N,N-dimethylformamide and 1.8 g Pd-alumina were charged and reacted in a hydrogen atmosphere at 50° C. for 6 hours. After finishing the reaction, the catalyst was filtered and the filtrate was concentrated under reduced pressure to obtain 1,4-bis(3-amino-5-trifluoromethylphenoxy)benzene as colorless crystals. The product was 36.5 g (70.5% yield) and had a melting point of 157.4~158.0° C.

reactant | 1,4-bis(3-nitro-5-trifluoromethylphenoxy)benzene | 0.0747 mol, 36.5 g | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)OC2=CC(=CC(=C2)C(F)(F)F)[N+](=O)[O-])C=C(C1)C(F)(F)F | C20H10F6N2O6
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1,4-bis(3-amino-5-trifluoromethylphenoxy)benzene | 70.5% yield | NC=1C=C(OC2=CC=C(C=C2)OC2=CC(=CC(=C2)C(F)(F)F)N)C=C(C1)C(F)(F)F | C20H14F6N2O2
